* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 27.00k
R3 N002 N001 27.00
R1 N003 N002 18.00k
R4 N001 N002 820.00
R5 N003 N001 18.00
V1 0 N003 30

.end