* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 390.00
R3 N002 N001 120.00
R1 N003 N002 39.00k
R4 N001 N002 3.90k
R5 N003 N001 5.60k
V1 0 N003 30

.end