* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 4.70k
R3 N002 N001 18.00k
R1 N003 N002 12.00k
R4 N001 N002 33.00
R5 N003 N001 33.00k
V1 0 N003 30

.end