* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 680.00k
R3 N002 N001 100.00k
R1 N003 N002 4.70
R4 N001 N002 82.00k
R5 N003 N001 47.00k
V1 0 N003 30

.end