* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 47.00k
R3 N002 N001 6.80k
R1 N003 N002 8.20
R4 N001 N002 220.00
R5 N003 N001 12.00k
V1 N003 0 30

.end