* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 120.00k
R3 N002 N001 820.00k
R1 N003 N002 470.00
R4 N001 N002 560.00k
R5 N003 N001 15.00
V1 N003 0 30

.end