* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 1.20
R3 N002 N001 33.00
R1 N003 N002 18.00k
R4 N001 N002 8.20
R5 N003 N001 2.20k
V1 N003 0 30

.end