* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 270.00
R3 N002 N001 150.00k
R1 N003 N002 6.80k
R4 N001 N002 120.00
R5 N003 N001 4.70k
V1 N003 0 30

.end